US09340549B2
To a 2 mL sealable tube were added (S)-3-(4-(7-iodo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (70 mg, 0.137 mmol), dicyanozinc (16.11 mg, 0.137 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) and Pd(Ph3P)4 (15.85 mg, 0.014 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) in DMF (457 μL). The mixture was purged with nitrogen for 5 minutes and then the tube was sealed. The vessel was heated to 85° C. in a microwave oven for 1 hour. LC-MS indicated complete conversion to the desired product. The final reaction mixture was passed through a syringe filter, and the material thus obtained was purified by reverse-phase preparative HPLC using 0.1% TFA in ACN/H2O, gradient 15% to 90% over 20 minutes to provide (S)-3-(4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)phenyl)-[1,2,4]triazolo[4,3-a]pyridine-7-carbonitrile (20 mg, 0.049 mmol, 35.6% yield) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ 8.71 (t, J=1.37 Hz, 1H), 8.66 (dd, J=1.17, 7.34 Hz, 1H), 7.84-7.90 (m, 2H), 7.72-7.78 (m, 2H), 7.37-7.44 (m, 2H), 7.28-7.37 (m, 3H), 7.22 (dd, J=1.56, 7.34 Hz, 1H), 5.56 (s, 1H), 1.67 (s, 3H), 0.94 (s, 3H). m/z (ESI) 410.2 (M+H)+.

reactant | (S)-3-(4-(7-iodo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.137 mmol, 70 mg | IC1=CC=2N(C=C1)C(=NN2)C2=CC=C(C=C2)N2C(OC([C@@H]2C2=CC=CC=C2)(C)C)=O | C23H19IN4O2
reactant | dicyanozinc | C(#N)[Zn]C#N
solvent | DMF | 457 μL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-3-(4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)phenyl)-[1,2,4]triazolo[4,3-a]pyridine-7-carbonitrile | 0.049 mmol, 20 mg, 35.6% yield | CC1([C@@H](N(C(O1)=O)C1=CC=C(C=C1)C1=NN=C2N1C=CC(=C2)C#N)C2=CC=CC=C2)C | C24H19N5O2
